Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
syncope, hypotension
 
Major Surgical or Invasive Procedure:
n/a 

 
History of Present Illness:
___ PMH hypothyroid and hypertension p/w syncope.

She reports that yesterday she was brushing teeth when she 
started to feel a "weakness" spread up her legs. She felt 
lightheaded, and called for her husband, and then passed out, 
hitting her head on the tiled wall. When she came to, there was 
blood on the wall and the floor, and her husband was able to 
help her get up. She estimates she was down for about 5 minutes, 
but remembered all events prior to LOC. She felt lightheaded 
afterwards, and presented to the emergency room for eval and 
treatment. 

She has no known history of CAD. She reports that she had 
palpitations a few years ago and had a stress test that was 
reportedly normal. She denies family history of sudden death, 
her grandfather had an MI but she never met him. 

In the ED, initial vitals were: 96.3 61 149/65 18 98% RA She had 
imaging that showed no acute abnormalities in the head, some 
swelling in the cervical soft tissue likely ___ trauma, and a 
normal CXR. She had 14 staples for a occipital laceration. 
During the repair, she became lightheaded again and was noted to 
have HR down to the ___, as well as SBP in the ___. EKG with NSR 
with rate of 65, LVH with diffuse secondary repolarization 
abnormalities, QTc ~500 msec. She was given 1 L of fluids and 
her pressure came back up appropriately. 

Today, she is pleasant and reports feeling a little better than 
when she came in. She has remained chest pain-free and has no 
shortness of breath, lightheadedness, or dizziness. She has had 
a cough for the past week, but denies fevers, and has been 
eating and drinking at her baseline. No abd pain, urinary 
symptoms, or diarrhea. 

Review of systems:  
(+) Per HPI  
(-) 10-point ROS negative except as above

 
Past Medical History:
HTN
HLD 
hypothyroidism 
 
Social History:
___
Family History:
No known family history of CAD, grandfather died of MI many 
years ago 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vital Signs: afebrile, BP 140/70s, HR ___, RR 20, 96%RA 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  

DISCHARGE PHYSICAL EXAM
Vital Signs: Tm 98.3 BP 131-157/55-77 HR ___ RR ___ O2Sat 
94-99RA
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 
Pertinent Results:
ADMISSION LABS
--------------
___ 11:09PM BLOOD WBC-9.6 RBC-4.37 Hgb-12.8 Hct-39.3 MCV-90 
MCH-29.3 MCHC-32.6 RDW-11.9 RDWSD-39.8 Plt ___
___ 11:09PM BLOOD Neuts-41.7 ___ Monos-8.6 Eos-3.6 
Baso-0.6 Im ___ AbsNeut-4.00 AbsLymp-4.23* AbsMono-0.83* 
AbsEos-0.35 AbsBaso-0.06
___ 11:09PM BLOOD ___ PTT-30.5 ___
___ 11:09PM BLOOD Glucose-112* UreaN-14 Creat-0.7 Na-139 
K-3.4 Cl-96 HCO3-28 AnGap-18
___ 04:37AM BLOOD CK(CPK)-242*
___ 11:09PM BLOOD cTropnT-<0.01
___ 11:09PM BLOOD Calcium-9.8 Phos-3.6 Mg-2.3
___ 04:37AM BLOOD TSH-1.2
___ 04:55AM URINE Color-Yellow Appear-Cloudy Sp ___
___ 04:55AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-SM 
___ 04:55AM URINE RBC-<1 WBC-8* Bacteri-FEW Yeast-NONE 
Epi-<1
___ 04:55AM URINE Mucous-RARE

MICROBIOLOGY
------------
___ 4:55 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

IMAGING
-------
ECHO ___: The patient exercised for 9 minutes and 45 
seconds according to a Gervino treadmill protocol ___ METS) 
reaching a peak heart rate of 144 bpm and a peak blood pressure 
of 180/72 mmHg. The test was stopped because of fatigue. This 
level of exercise represents an average exercise tolerance for 
age and gender. The exercise ECG was uninterpretable due to 
resting ST-T wave changes (see exercise report for details). 
There is resting systolic hypertension with normal blood 
pressure and heart rate responses to stress. 
 .
 Resting images were acquired at a heart rate of 75 bpm and a 
blood pressure of 144/60 mmHg. These demonstrated a small 
hypertrophic left ventricle with normal regional and 
hyperdynamic global left ventricular systolic function. Right 
ventricular free wall motion is normal. There is no pericardial 
effusion. Doppler demonstrated no aortic stenosis, aortic 
regurgitation or significant mitral regurgitation or 
resting/inducible LVOT gradient. The estimated pulmonary artery 
systolic pressure is normal. .

 Echo images were acquired within 24 seconds after peak stress 
at heart rates of 137 - 125 bpm. These demonstrated appropriate 
augmentation of all left ventricular segments with slight 
decrease in cavity size. There was augmentation of right 
ventricular free wall motion. 

 IMPRESSION: Average functional exercise capacity. 
Uninterpretable ECG changes in the absence of 2D 
echocardiographic evidence of inducible ischemia to achieved 
workload. Resting hypertension. Normal hemodynamic response to 
exercise.  

CT HEAD W/OUT CONTRAST ___: 1. Posterior parietal soft 
tissue laceration, with no underlying fracture. 
2. No acute intracranial process. 
3.  Paranasal sinus inflammatory changes including free fluid. 

CT C-SPINE W/OUT CONTRAST ___: 1. No evidence of fracture. 
2. 2 mm anterolisthesis of C7 on T1 and T1 on T2 is likely due 
to degenerative 
disc disease. 
3. No prevertebral edema. 
4. Multilevel degenerative changes as described. 

CXR ___: No acute cardiopulmonary abnormality

MR CERVICAL SPINE W/OUT CONTRAST ___: Except for mild signs 
of soft tissue injury in the interspinous region in the 
lower cervical region at C5-6 and C6-7 levels, no signs of 
ligamentous 
disruption or acute bony injury are identified.  No cord 
compression or 
intraspinal hematoma seen. 

DISCHARGE/INTERVAL LABS
___ 07:00AM BLOOD WBC-8.0 RBC-3.95 Hgb-12.1 Hct-36.7 MCV-93 
MCH-30.6 MCHC-33.0 RDW-12.5 RDWSD-42.4 Plt ___
___ 07:00AM BLOOD ___ PTT-35.0 ___
___ 07:00AM BLOOD Glucose-94 UreaN-11 Creat-0.7 Na-139 
K-4.1 Cl-101 HCO3-24 AnGap-18
___ 09:05AM BLOOD CK(CPK)-236*
___ 09:05AM BLOOD CK-MB-12* MB Indx-5.1 cTropnT-<0.01
___ 07:00AM BLOOD Calcium-9.0 Phos-2.8 Mg-2.___ PMH hypothyroid and hypertension presenting with presyncopal 
symptoms associated with severe hypotension and bradycardia.

# Syncope: Likely vasovagal given episode of bradycardia and 
hypotension in the ED. Telemetry insignificant for arrhythmias 
or alarming events. Troponins x 2 have been negative. MRI 
C-spine does not show signs of ligamentous disruption or acute 
bony injury without cord compression or intraspinal hematoma. 
ECHO revealed small hypertrophic left ventricle with normal 
regional and hyperdynamic global left ventricular systolic 
function. Patient was also found to be orthostatic on exam. 
Subsequently, patient has been advised on the importance of 
adequate hydration.

# Hypotension, bradycardia: Patient experienced an episode of 
hypotension with SBPs in the ___ and bradycardia to the ___, 
possibly secondary to a vasovagal episode during an injection of 
lidocaine. Given that this occurred after the lidocaine 
injection, it is also possible that there was accidental 
intravascular injection of lidocaine which could result in 
hypotension and bradycardia. Blood pressures have remained 
stable overnight without concern for hypotension; no bradycardia 
or other events noted on telemetry.

# QT prolongation: QTc on admission ~500 with repeat QTc found 
to be 473. Avoid QT-prolonging medications

# Hypothyroidism: Continue levothyroxine 50 mcg daily

# Hypertension: Continue with Amlodipine and 
hydrocholorothiazide on discharge

# Hyperlipidemia: Continue atorvastatin 10 mg daily

# Glaucoma: Continue latanoprost and timolol eye drops

***Transitional issues***:
- no arrhythmias seen on telemetry. No medication changes. 
Amlodipine, initially held, restarted on discharge. Please 
monitor for hypertension in the outpatient setting. 
- patient was orthostatic during this admission. Please obtain 
orthostatic vital signs at her next primary care appointment. 
- patient had staples placed for scalp laceration. Please ensure 
that these are removed within 2 weeks of discharge. 
- QTc noted to be in the low 500s. This may require further 
outpatient monitoring. On discharge, QTc was found to be 473
- advise reconsidering BP medication regimen. Patient states 
that second BP medication was added this week which may have 
contributed to hypotension 
- ECHO showed: small hypertrophic left ventricle with normal 
regional and hyperdynamic global left ventricular systolic 
function (EF > 75%). Advise adequate fluid hydration.
- FULL CODE 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 2.5 mg PO DAILY 
2. Atorvastatin 10 mg PO QPM 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
5. Levothyroxine Sodium 50 mcg PO DAILY 
6. Timolol Maleate 0.5% 1 DROP BOTH EYES DAILY 

 
Discharge Medications:
1.  amLODIPine 2.5 mg PO DAILY  
2.  Atorvastatin 10 mg PO QPM  
3.  Hydrochlorothiazide 25 mg PO DAILY  
4.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
5.  Levothyroxine Sodium 50 mcg PO DAILY  
6.  Timolol Maleate 0.5% 1 DROP BOTH EYES DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Primary diagnosis: 
Syncope 

Secondary diagnoses: 
Hypertension
Left ventricular hypertrophy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

___ were admitted to the hospital because ___ fainted at home. 
___ were monitored overnight, and received a stress test, and we 
feel that your episodes was not due to a heart problem. Your 
stress test was normal. We feel that your symptoms are related 
to dehydration, so it is important that ___ drink lots fluids. 
Please monitor your symptoms at home and follow up with your 
doctor as listed below. 

***Please make sure to attend your PCP appointment listed below 
to have staples removed!

It was a pleasure taking care of ___ and we wish ___ the best! 

Sincerely,
Your ___ team 
 
Followup Instructions:
___